US08183246B2
4-{[(2S)-2-{[6-(2-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}propyl]-(methyl)amino}butyric acid tert.-butyl ester
Add 22 mg (0.54 mmol) sodium hydride (60% dispersion in mineral oil) to a solution of 100 mg (0.43 mmol) 4-{[(2S)-2-hydroxypropyl](methyl)amino}butyric acid tert.-butyl ester in 1 ml THF, with ice cooling. After stirring for ten minutes with ice cooling, add a solution of 161 mg (0.45 mmol) 4-chloro-6-(2-fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidine in 2 ml THF and 8 mg (0.02 mmol) tetra-n-butylammonium iodide. Stir the reaction mixture for 16 hours at room temperature. After adding water and ethyl acetate, wash the separated organic phase with 1 N hydrochloric acid and concentrate by vacuum evaporation. Take up the residue in acetonitrile/DMSO and purify by preparative RP-HPLC (gradient: water/acetonitrile). 114 mg (93% purity, 45% of theor.) of the desired product is obtained.

reactant | sodium hydride | 0.54 mmol, 22 mg | [H-].[Na+]
reactant | 4-{[(2S)-2-hydroxypropyl](methyl)amino}butyric acid tert.-butyl ester | 0.43 mmol, 100 mg | C(C)(C)(C)OC(CCCN(C)C[C@H](C)O)=O | C12H25NO3
reactant | 4-chloro-6-(2-fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidine | 0.45 mmol, 161 mg | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)F | C19H12ClFN2O2
reactant | water | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | tetra-n-butylammonium iodide | 0.02 mmol, 8 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{[(2S)-2-{[6-(2-Fluorophenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]oxy}propyl]-(methyl)amino}butyric acid tert.-butyl ester | C(C)(C)(C)OC(CCCN(C)C[C@H](C)OC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)F)=O | C31H36FN3O5
